US07064124B2
3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-acetoxybenzoic acid
3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoic acid (0.288 g, 0.795 mmol) was dissolved in acetic anhydride (5 ml) and the resulting solution was stirred under heating at 65° C. for 3 hours. The reaction solution was cooled and after adding thereto water (20 ml) and stirring at room temperature for 1 hour, extracted with ethyl acetate. The extract was washed with saturated brine and then dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (chloroform:methanol=9:1) to obtain the titled compound (0.245 g, 0.541 mmol, 68%).

reactant | 3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoic acid | 0.795 mmol, 0.288 g | COC=1C(=C(CC=2C(=C(C(=O)O)C=CC2)O)C(=C(C1OC)OC)OC)C | C19H22O7
reactant | water | 20 ml | O | H2O
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-acetoxybenzoic acid | 0.541 mmol, 0.245 g, 68% | COC=1C(=C(CC=2C(=C(C(=O)O)C=CC2)OC(C)=O)C(=C(C1OC)OC)OC)C | C21H24O8
